US05252587
0.18 g (0.3 mmol) of 1,5-dideoxy-2,3,6-Tri-O-benzyl-1,5-{[6-(trimethylsilyl)hexyl]imino}-D-glucitol 20 ml of a 4:1 mixture of ethanol and water and 0.1N hydrochloric acid (3 ml, 0.3 mmol) are hydrogenated at atmospheric pressure in presence of 60 mg of palladium 10% on charcoal to afford 0.065 g (66%) of expected 1,5-dideoxy-1,5-{5-(trimethylsilyl)hexyl]imino}-D-glucitol as a white solid.

reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 0.3 mmol, 0.1N, 3 ml | Cl | ClH
reactant | water | O | H2O
catalyst | palladium | 60 mg | [Pd] | Pd
product | glucitol | C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
